US05783563
(v) 3-aminoethyl-1-benzhydryl azetidine
5.7 g (21.7 mmol) of 3-cyanomethyl-l-benzhydryl azetidine was added slowly to a suspention of 2.9 g (76.0 mmol) of LiAlH4 in 80 mL of dry THF at roomtemperature. The reaction mixture was refluxed for 4 h. Excess hydride reagent was hydrolyzed by careful addition, with cooling, of NH4 Cl(aq), the gelatinous mixture was filtered and the filter cake was washed repeatedly with THF. The solvent was evaporated, the residue was dissolved in diethyl ether, washed with brine and dried with Na2SO4. Evaporation of the solvent gave 5.0 g (87%) of the title compound.

reactant | 3-cyanomethyl-l-benzhydryl azetidine | 21.7 mmol, 5.7 g | C(#N)CC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18N2
reactant | LiAlH4 | 76.0 mmol, 2.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | hydride | [H-]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-aminoethyl-1-benzhydryl azetidine | 5.0 g, 87% | NCCC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H22N2
